US06713474B2
A mixture of 4-bromo-3-methylphenyl phenyl ether (1.7 g, 0.00646 mol), diboron pinacol ester (2.0 g, 0.00775 mol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.16 g, 0.00019 mol) and potassium acetate (1.9 g, 0.01938 mol) in N,N-dimethylformamide (65 mL) was heated at 80° C. under an atmosphere of nitrogen for 22 hours. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. Dichloromethane was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated into black mixture, which was purified by flash chromatography on silica using ethyl acetate/n-heptane (3:97) as mobile phase to yield 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl phenyl ether (1.05 g, 0.00338 mol):

reactant | 4-bromo-3-methylphenyl phenyl ether | 0.00646 mol, 1.7 g | C1(=CC=CC=C1)OC1=CC(=C(C=C1)Br)C | C13H11BrO
reactant | diboron pinacol ester | 0.00775 mol, 2.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00019 mol, 0.16 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.01938 mol, 1.9 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 65 mL | CN(C=O)C | C3H7NO
product | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl phenyl ether | 0.00338 mol, 1.05 g | C1(=CC=CC=C1)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C19H23BO3
